US05232917
3α-N-methyl-nicotinoyloxy-5α-pregnan-20-one iodide
A mixture of 3α-nicotinoyloxy-5α-pregnan-20-one (770 mg, 421 g/m, 1.8 mmol) and methyliodide (3.0 mL, 141 g/m, ~20 mmol) in 30 mL of acetone was refluxed gently for 17 hours. The reaction mixture was concentrated in vacuo to give the crude product.

reactant | 3α-nicotinoyloxy-5α-pregnan-20-one | 1.8 mmol, 770 mg | C(C1=CN=CC=C1)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H37NO3
reactant | methyliodide | ~20 mmol, 3.0 mL | CI | CH3I
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 3α-N-methyl-nicotinoyloxy-5α-pregnan-20-one iodide | [I-].CN1CC(C(=O)O[C@H]2C[C@@H]3CC[C@H]4[C@@H]5CC[C@H](C(C)=O)[C@]5(CC[C@@H]4[C@]3(CC2)C)C)=CC=C1 | InChI=1S/C28H41NO3.HI/c1-18(30)23-9-10-24-22-8-7-20-16-21(32-26(31)19-6-5-15-29(4)17-19)11-13-27(20,2)25(22)12-14-28(23,24)3;/h5-6,15,20-25H,7-14,16-17H2,1-4H3;1H/p-1/t20-,21+,22-,23+,24-,25-,27-,28+;/m0./s1
